US05250537
9-Azabicyclo[3.3.1]nonan-3-one Hydrochloride
To suspension of zinc (67.2 g, 1.03 g-atom) in glacial acetic acid (40 mL) at 65° C. was slowly added a solution of 9-(2,2,2-trichlorocarbethoxy)-9-azabicyclo[3.3.1]nonan-3-one (80.9 g, 0.26 mol) in glacial acetic acid (120 mL) over 1 hour. An additional 40 mL of glacial acetic acid was used to rinse the addition funnel and the reaction was stirred at 65° C. until no further gas evolution was observed. The reaction was allowed to cool slightly and water (40 mL) was added to dissolve the organic acetate salts. The reaction was filtered and solvent was removed under vacuum. The resultant orange oil was slowly added to concentrated ammonium hydroxide (80 mL) using water (80 mL) to aid in the transfer. An additional 80 mL of concentrated ammonium hdroxide was added, followed by the addition of a solution of 31 g of sodium hydroxide in 155 mL of water. The solution was extracted with methylene chloride (6×300 mL), dried over anhydrous sodium sulfate, filtered, and concentrated to an oil. The oil was dissolved in 200 mL of ether and the solution was slowly added to 1N hydrogen chloride in ether (310 mL) while vigorously stirring to give 38.7 g (86% yield) of a colorless hydrochloride, m.p. 216°-219° C. after trituration with ether and drying. Anal. (C8H14ClNO).

reactant | 9-(2,2,2-trichlorocarbethoxy)-9-azabicyclo[3.3.1]nonan-3-one | 0.26 mol, 80.9 g | ClC(COC(=O)N1C2CC(CC1CCC2)=O)(Cl)Cl | C11H14Cl3NO3
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 67.2 g | [Zn] | Zn
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 9-Azabicyclo[3.3.1]nonan-3-one Hydrochloride | 38.7 g, 86% yield | Cl.C12CC(CC(CCC1)N2)=O | InChI=1S/C8H13NO.ClH/c10-8-4-6-2-1-3-7(5-8)9-6;/h6-7,9H,1-5H2;1H
